US08097759B2
N-(9-Ethylcarbazol-3-yl)-5-chloro-2-hydroxybenzamide (Compound No. 47)
Using 5-chlorosalicylic acid and 3-amino-9-ethylcarbazole as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-amino-9-ethylcarbazole | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
product | N-(9-Ethylcarbazol-3-yl)-5-chloro-2-hydroxybenzamide | Yield: 64.6% | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(C1=C(C=CC(=C1)Cl)O)=O | C21H17ClN2O2
